US07576072B2
7-(4-Bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid (2-hydroxyethoxy)-amide
Preparation of 7-(4-bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid (2-vinyloxyethoxy)-amide: A mixture of 7-(4-bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid (1.00 equiv), EDCI (1.50 equivalents), and HOBt (1.50 equivalents) in DMA is stirred for 30 minutes at room temperature under N2. O-(2-vinyloxy-ethyl)-hydroxylamine (3.00 equivalents) is added followed by Et3N (2.50 equivalents). After the reaction mixture is stirred for 16 hours at room temperature, it is diluted with EtOAc and washed with saturated NH4Cl solution, saturated NaHCO3 solution and saturated NaCl. The organic layer is dried (Na2SO4) and concentrated under reduced pressure to yield the desired product. The product may be purified by flash column chromatography if further purification is necessary.

reactant | 7-(4-bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid (2-vinyloxyethoxy)-amide | C(=C)OCCONC(=O)C=1C(=CC=2N(N1)C=CN2)NC2=C(C=C(C=C2)Br)F | C17H15BrFN5O3
reactant | 7-(4-bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid | 1.00 equiv | BrC1=CC(=C(C=C1)NC1=CC=2N(N=C1C(=O)O)C=CN2)F | C13H8BrFN4O2
reactant | EDCI | 1.50 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.50 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 3.00 equivalents | C(=C)OCCON | C4H9NO2
reactant | Et3N | 2.50 equivalents | CCN(CC)CC | C6H15N
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(4-Bromo-2-fluorophenylamino)-imidazo[1,2-b]pyridazine-6-carboxylic acid (2-hydroxyethoxy)-amide | OCCONC(=O)C=1C(=CC=2N(N1)C=CN2)NC2=C(C=C(C=C2)Br)F | C15H13BrFN5O3
